US06472412B1
Trityl chloride (9.43 g) is added in one portion to a solution of 2-hydroxymethyl-5-methoxy-4-pyridone (5 g) and 4-dimethylaminopyridine (4.2 g) in dry dimethylformamide (80 mL) and the solution stirred at room temperature for 12 hours. The mixture is then heated on a steam bath for 3 hours and diluted with iced water (300 mL) to give a light brown solid. The solid is collected, washed with water and sucked dry. The solid is dissolved in hot ethyl acetate to give a clear solution which immediately deposits a granular off-white solid. The solid does not redissolve on further heating. After cooling the solid is collected, washed with ethyl acetate and diethyl ether and dried to give 5-methoxy-2-trityloxymethyl-4-pyridone (7.5 g) as an off-white solid, m.p. 185-7° C.

reactant | Trityl chloride | 9.43 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | 2-hydroxymethyl-5-methoxy-4-pyridone | 5 g | OCC1=NC=C(C(C1)=O)OC | C7H9NO3
catalyst | 4-dimethylaminopyridine | 4.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 80 mL | CN(C=O)C | C3H7NO
solvent | water | 300 mL | O | H2O
product | 5-methoxy-2-trityloxymethyl-4-pyridone | 7.5 g | COC=1C(CC(=NC1)COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C26H23NO3
